US08604023B2
4-(Bromomethyl)-1,2-diethylbenzene
1,2-Diethylbenzene (3.4 g, 23.3 mmol) and paraformaldehyde (2.5 g, 84 mmol) were suspended in glacial acetic acid (60 mL), hydrobromic acid (38% in acetic acid, 8 mL) was added, the reaction flask was sealed with a rubber septum and heated to 80° C. After 4 hours the solution was cooled to ambient temperature and paraformaldehyde (2.5 g, 84 mmol) and hydrobromic acid (38% in acetic acid, 8 mL) were added. The mixture was reheated to 80° C. for 4 hours. Further paraformaldehyde (2.5 g, 84 mmol) and hydrobromic acid (38% in acetic acid, 8 mL) were and the reaction let stir at 80° C. overnight. After a total of 24 hours of reaction time the solution was cooled, diluted with water and diethyl ether, then the layers separated. The organic layers were washed carefully with saturated sodium bicarbonate (4×50 mL), brine, then dried with sodium sulfate, filtered and concentrated in the presence of silica. Purified by column chromatography eluting with 100% hexanes. Concentrated fractions to a yield 4-(bromomethyl)-1,2-diethylbenzene (4.05 g, 77%) 1H NMR (300 MHz, CDCl3) δ 1.21 (m, 6H) 2.64 (m, 4H), 4.47 (s, 2H), 7.1-7.2 (m, 3H).

reactant | 1,2-Diethylbenzene | 23.3 mmol, 3.4 g | C(C)C1=C(C=CC=C1)CC | C10H14
reactant | paraformaldehyde | 84 mmol, 2.5 g | C=O | CH2O
reactant | hydrobromic acid | 8 mL | Br | BrH
reactant | paraformaldehyde | 84 mmol, 2.5 g | C=O | CH2O
reactant | hydrobromic acid | 8 mL | Br | BrH
reactant | paraformaldehyde | 84 mmol, 2.5 g | C=O | CH2O
reactant | hydrobromic acid | 8 mL | Br | BrH
reactant | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(Bromomethyl)-1,2-diethylbenzene | BrCC1=CC(=C(C=C1)CC)CC | C11H15Br
